US04923885
5-Amino-l-[4-(l-naphthoyl)-3,5-dimethylbenzyl]-l,2,3-triazole-4-carboxamide
A solution of 5-amino-l,2,3-triazole-4-carboxamide (182 mg, 1.43 mmol) in 5 ml of dry dimethylformamide (DMF) is treated with 50% sodium hydride dispersion in mineral oil (70mg). The reaction mixture is warmed to 45° C. and stirred for 1 hour. To this mixture, a solution of 4-(1-naphthoyl)-3,5dimethylbenzyl bromide (0.43 g, 1.2 mmol) in 5 ml of dry DMF is added. The reaction mixture is stirred at 45° C. for an additional 20 minutes and then stirred at room temperature for 1 hour. The reaction mixture is added slowly to water containing a small quantity of glacial acetic acid. The mixture is extracted with methylene chloride and the combined extracts washed with brine and dried with anhydrous sodium sulfate. Solvent is removed and the crude mixture of two triazoles is chromatographed on silica gel to give the titled compound.

reactant | 5-amino-l,2,3-triazole-4-carboxamide | 1.43 mmol, 182 mg | NC1=C(N=NN1)C(=O)N | C3H5N5O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(1-naphthoyl)-3,5dimethylbenzyl bromide | 1.2 mmol, 0.43 g | C1(=CC=CC2=CC=CC=C12)C(=O)C1=C(C=C(CBr)C=C1C)C | C20H17BrO
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Amino-l-[4-(l-naphthoyl)-3,5-dimethylbenzyl]-l,2,3-triazole-4-carboxamide | NC1=C(N=NN1CC1=CC(=C(C(=C1)C)C(=O)C1=CC=CC2=CC=CC=C12)C)C(=O)N | C23H21N5O2
